Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F pt presenting via EMS s/p fall. Pt was with nephew and 
had an episode of fall vs syncope. Pt was standing and fell 
back, was caught by by ___. No headstrike or LOC. No 
dizziness, headache, CP now or prior to fall. Pt has not seen a 
PCP ___ ___ years. Not on any meds. Denies any blurry vision, 
numbness or tingling, or speech deficits. Pt has gait 
instability at baseline. Has a walker and cane but doesn't use 
it.  
 In the ED:  
 - initial vitals were: 0 96.2 46 182/76 18 98% RA  
 - Exam notable for:  
 R ___ edema (per nephew, at baseline)  
 L facial droop with assymetric smile (per nephew, at baseline)  

 - ___ notable for: proBNP: 931; ___: <0.01 x2; Cr 1.4  
 - Imaging was notable for: No acute intracranial abnormality on 
CT head and no CP abnormality on CXR but mild compression 
deformity in the upper thoracic spine is of unknown acuity  
 - Patient was given: Nothing  
 Upon arrival to the floor, patient reports that she is very 
strong. She was standing in line at grocery store and was 
suddenly on the ground. No dizziness, HA before. She was caught 
by the lady behind her and sustained no injuries. She doesn't 
know how long she was down, maybe 5 minutes. Denies bladder 
incontinence, muscle soreness, or confusion afterwards. She has 
never had similar falls. She was able to walk afterwards.  

 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of cardiac problems. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: 97.8 PO 170 / 81 67 18 97 Ra  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, Hirsuit  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Decreased breath sounds in RLL, otherwise CTAB  
Abdomen: Soft, ___  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Mild L facial droop, ___ strength upper/lower 
extremities, grossly normal sensation, No dysmetria on 
___. 

DISCHARGE PHYSICAL EXAM
=======================
Vital Signs: 97.5 PO 115 / 59 R  62 20 96 Ra 
General: Alert, oriented, intermittently confused, no acute 
distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, facial hair 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: CTAB  
Abdomen: Soft, ___  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Mild L facial droop, ___ strength upper/lower 
extremities, grossly normal sensation.  
 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 01:57PM BLOOD ___ 
___ Plt ___
___ 01:57PM BLOOD ___ 
___ Im ___ 
___
___ 01:57PM BLOOD ___ 
___
___ 10:26AM BLOOD ___
___ 09:00PM BLOOD cTropnT-<0.01
___ 01:57PM BLOOD cTropnT-<0.01 ___
___ 10:26AM BLOOD ___
___ 02:19PM BLOOD ___
___ 09:00PM BLOOD ___

DISCHARGE LAB RESULTS
=====================
___ 10:26AM BLOOD ___ 
___ Plt ___
___ 10:26AM BLOOD ___ 
___

IMAGING
=======
___ Chest XRay:
AP and lateral views the chest provided.  The lungs are clear 
bilaterally.Heart size appears normal.  The aorta is calcified 
and slightly unfolded.  Nolarge effusion or pneumothorax.  A 
mild compression deformity in the upperthoracic spine is of 
unknown acuity.

___ CT Head without Contrast:
There is no hemorrhage, edema, or mass effect.  Prominent 
ventricles and sulci likely reflect age related volume loss.  
Periventricular and subcortical white matter hypodensity, 
nonspecific, is likely sequela of chronic small vessel ischemia. 
 ___ matter differentiation is preserved.  There is no 
shift of normally midline structures.  Basal cisterns are 
patent.The orbits are unremarkable.  Mucous retention cyst is 
noted within the posterior right ethmoidal air cell.  Remaining 
imaged paranasal sinuses,bilateral mastoid air cells, and middle 
ear cavities bilaterally are clear. Carotid siphon vascular 
calcifications are moderately severe.  Metallic density is noted 
involving the lateral left frontal bone at the zygomaticofrontal 
suture.

___ Echocardiogram:
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global systolic function (LVEF>55%). Tissue Doppler 
imaging suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve is not 
well seen. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The left ventricular inflow pattern 
suggests impaired relaxation. The pulmonary artery systolic 
pressure could not be determined. There is an anterior space 
which most likely represents a prominent fat pad. IMPRESSION: 
Mild symmetric left ventricular hypertrophy with preserved 
global and regional biventricular systolic function. Elevated 
estimated left ventricular filling pressures. No significant 
valvular disease

 
Brief Hospital Course:
Ms. ___ is a ___ yo F with no past medical history who 
presented via EMS s/p syncope. Syncope workup was negative and 
the patient was discharged to rehab. Hospital course included 
new diagnosis of dementia, diabetes, and CKD. The patient 
frequently refused vital sign checks, daily physical exams, and 
lab draws. 
  
# s/p Syncope: The patient reported no prodrome. Differential 
includes vasovagal reaction vs. heart arrhythmia. Patient was 
bradycardic to 48 on arrival to the ED. Orthostatics obtained in 
the hospital were negative. She was monitored on telemetry for 
24 hours without any arrhythmias. An echocardiogram showed an 
ejection fraction of 55%, mild left ventricular hypertrophy. ___ 
and OT both recommend rehab. 

#Bright Red Blood Per Rectum: Patient has several episodes of 
BRBPR. She remained hemodynamically stable. This was deemed 
secondary to hemorrhoids. 
 
# CKD Stage 3: The patient presented with Cr 1.3. This is likely 
from untreated type 2 diabetes. 

# Dementia: Patient scored an ___ on a MOCHA test performed in 
the hospital on ___. Given the MOCHA score and history obtained 
from the nephew regarding the unkempt state of the patient's 
apartment, it is clear that the patient has underlying dementia. 
It is likely not safe for the patient to return to the home 
alone at which she was living. 

#Type 2 Diabetes: HbA1c on presentation was 7.5. Likely 
contributing to renal disease. 
 
# Compression fracture: The patient was found to have a mild 
compression fracture of the upper thoracic spine. The patient 
was asymptomatic without complaints of pain. The patient refused 
calcium and vitamin D supplementation. Consider calcium and 
vitamin D supplementation as an outpatient.

TRANSITIONAL ISSUES:
====================
- Patient should establish care with PCP
- ___ should move to a skilled nursing facility or have a home 
health aid come to visit her regularly to ensure that she is in 
a safe living situation. 
- Consider vitamin D supplementation, calcium supplementation. 

# CODE: Full (presumed) Patient does not want to make that 
decision at this time. 
# CONTACT: Nephew ___.  

 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Syncope

Secondary Diagnosis:
- CKD
- Type 2 Diabetes
- Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized at ___.

Why did you come to the hospital?
=================================
- You came here because you lost consciousness. 

What did we do for you?
========================
- You had a CT scan of your head, which was normal. 
- Your heart was monitored for 24 hours, which was normal
- You had an ultrasound of your heart (echocardiogram), which 
was normal.

What do you need to do?
=======================
- It is important that you go to rehab to work with the physical 
therapists to get stronger
- You should establish care with a primary care doctor.

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team
 
Followup Instructions:
___